US08476286B2
C. Synthesis of 1-benzyl-4-(3-chloro-4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one
The title compound is prepared from (2-benzylamino-5-prop-2-ynyloxy-phenyl)-(3-chloro-4-isopropylphenyl)-methanone (hydrochloric acid salt) by cyclisation with sodium cyanate analogously to the method described for the preparation of example 62.

reactant | (2-benzylamino-5-prop-2-ynyloxy-phenyl)-(3-chloro-4-isopropylphenyl)-methanone | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC(=C(C=C1)C(C)C)Cl | C26H24ClNO2
reactant | sodium cyanate | [O-]C#N.[Na+]
product | 1-benzyl-4-(3-chloro-4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | C(C1=CC=CC=C1)N1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC(=C(C=C1)C(C)C)Cl)=O | C27H23ClN2O2
